US07521448B2
A 0.5M THF solution of methyl 1-(4-{[4-(trifluoromethoxy)benzyl]oxy}phenyl)-1H-benzimidazole-5-carboxylate (3.7 g, 8.4 mmol) was treated with 10M NaOH (8.4 mL, 84 mmol) and enough methanol to make the mixture homogeneous. The reaction mixture was then heated at 70° C. for 24 h, after which it was concentrated in vacuo, taken up in water and acidified to pH 4 with 2M HCl(aq). The resulting precipitate was filtered and washed with water to afford 1-(4-{[4-(trifluoromethoxy) benzyl]oxy}phenyl)-1H-benzimidazole-5-carboxylic acid. 1H NMR (DMSO-d6, 400 MHz) δ 5.26 (s, 2H), 7.26-7.29 (m, 2H), 7.43 (d, 2H, J=8.0 Hz), 7.58 (d, 1H, J=8.0 Hz), 7.63-7.66 (m, 4H), 7.94 (dd, 1H, J=8.8 Hz, 1.6 Hz), 8.33 (d, 1H, J=0.8 Hz), 8.62 (s, 1H); MS (ES+): m/z 429 (MH+).

reactant | THF | 0.5M | C1CCOC1 | C4H8O
reactant | methyl 1-(4-{[4-(trifluoromethoxy)benzyl]oxy}phenyl)-1H-benzimidazole-5-carboxylate | 8.4 mmol, 3.7 g | FC(OC1=CC=C(COC2=CC=C(C=C2)N2C=NC3=C2C=CC(=C3)C(=O)OC)C=C1)(F)F | C23H17F3N2O4
reactant | NaOH | 84 mmol, 10M, 8.4 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1-(4-{[4-(trifluoromethoxy) benzyl]oxy}phenyl)-1H-benzimidazole-5-carboxylic acid | FC(OC1=CC=C(COC2=CC=C(C=C2)N2C=NC3=C2C=CC(=C3)C(=O)O)C=C1)(F)F | C22H15F3N2O4
